US04291056
To the combined solutions of 30 g of 3-(2,2-dichlorovinyloxy)benzaldehyde in 320 ml of ethanol and 15 g of NaCN in 30 ml water are added 39 ml of acetic acid dropwise at 0°-5° C. in the course of 1 hour. The resultant solution is stirred for 1 hour at 20°-25° C. and subsequently diluted with 1000 ml of H2O. The product is extracted with toluene, washed and evaporated, to yield 31 g of 3-(2,2-dichlorovinyloxy)mandelonitrile. The crude product can be processed without further purification.

reactant | 3-(2,2-dichlorovinyloxy)benzaldehyde | 30 g | ClC(=COC=1C=C(C=O)C=CC1)Cl | C9H6Cl2O2
reactant | NaCN | 15 g | [C-]#N.[Na+]
reactant | acetic acid | 39 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 320 ml | C(C)O | C2H6O
solvent | water | 30 ml | O | H2O
solvent | H2O | 1000 ml | O | H2O
product | 3-(2,2-dichlorovinyloxy)mandelonitrile | 31 g | ClC(=COC=1C=C(C(C#N)O)C=CC1)Cl | C10H7Cl2NO2
